* SN74LVC1G125
*****************************************************************************
* (C) Copyright 2014 Texas Instruments Incorporated. All rights reserved.                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer.
*****************************************************************************
*
** Released by: WEBENCH(R) Design Center, Texas Instruments Inc.
* Part: SN74LVC1G125
* Date: 11/21/2014
* Model Type: Transient
* Simulator: Pspice
* Simulator Version: Pspice 16.2.0.s003
* EVM Order Number: N/A 
* EVM Users Guide: N/A
* Datasheet: SCES223T –APRIL 1999–REVISED OCTOBER 2014
*
* Model Version: 1.0
*
*****************************************************************************
*
* Updates:
*
* Version 1.0 : New model
*
************************************************************************* 
************************************************************************
*$
.SUBCKT SN74LVC1G125 OE A GND Y VCC
R_RA         A 0  50e06 TC=0,0 
C_CA         A 0  4e-12  TC=0,0 
R_ROE        OE 0  50e06 TC=0,0
C_COE        OE 0  4e-12  TC=0,0 
X_U1         OE A GND Y_INT1 VCC SN74LVC1G125_BUF 
R_Rpu        VCC OE  50e06 TC=0,0 
X_S1    OE N07928 Y Y_INT1 SN74LVC1G125_S1 
V_V1         N07928 GND 0.8Vdc
C_CO         Y 0  30p  TC=0,0 
.ENDS
*$
***
.subckt SN74LVC1G125_S1 1 2 3 4  
S_S1         3 4 1 2 _S1
RS_S1         1 2 1G
.MODEL         _S1 VSWITCH Roff=20e6 Ron=1.0 Voff=1.2V Von=0.0V
.ends SN74LVC1G125_S1
*$
***
.SUBCKT SN74LVC1G125_BUF OE A GND Y VCC
.PARAM VCCmin = 1.65
.PARAM RoVCCmin = 110
ETHRESH THRESH GND VALUE={0.5*V(VCC)}
RCC VCC GND 5e06
EO NO GND VALUE = {IF(V(A) > V(THRESH) & V(OE) < V(THRESH),V(VCC,GND), V(GND))}
*RO NO Y 39
GO NO Y VALUE = {V(NO,Y)*(V(VCC,GND)/VCCmin)/RoVCCmin}
RO NO Y 1e5
.ENDS
*$

